US04544658
A mixture of 2.8 g (0.01 mol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1.14 g (0.01 mol) of cis-2,6-dimethylpiperazine and 2.2 g of diazabicyclo[2.2.2]octane is heated at 140° C. for 5 hours. The solvent is distilled off under high vacuum, 30 ml of water are added to the residue, the suspension is adjusted to pH 8 with 2N HCl and the precipitate which has separated out is extracted by boiling with 30 ml of methanol. 0.75 g (21% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3,5-dimethyl-1-piperazinyl)quinoline-3-carboxylic acid, of decomposition point 234°-236° C., is obtained. Mass spectrum: 359 (M+), 290, 289 (100%, M+ -70), 245,70.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.01 mol, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | cis-2,6-dimethylpiperazine | 0.01 mol, 1.14 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | diazabicyclo[2.2.2]octane | 2.2 g | N12NCC(CC1)CC2 | C6H12N2
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3,5-dimethyl-1-piperazinyl)quinoline-3-carboxylic acid | 0.75 g, 21% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NC(C1)C)C)F)=O)C(=O)O | C19H22FN3O3
